### PR TITLE
[Merged by Bors] - feat(LinearAlgebra): define row- and column-stochastic matrices

### PR DESCRIPTION
**Pull request by sjh227**
This PR defines row- and column-stochastic matrices, and relates them to doubly stochastic matrices (which are already in mathlib).

---

### CODE REVIEW

File: Mathlib/Data/Matrix/Stochastic.lean [hunk 1]
```diff
@@ -0,0 +1,250 @@
+/-
+Copyright (c) 2025 Steven Herbert. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Steven Herbert
+-/
+
+import Mathlib.Data.Matrix.Basic
+
+/-!
+# StochasticMatrix
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/Stochastic.lean]:
```suggestion
# Stochastic matrices
```

File: Mathlib/Data/Matrix/Stochastic.lean [hunk 2]
```diff
@@ -0,0 +1,250 @@
...
+(possibly) only singly stochastic (both row and column).
+
+## Main definitions
+
+* `rowStochastic`
+* `colStochastic`
+
+## Main statements
+
+* `pdist_vecMul_of_mem_rowStochastic` if a row stochastic matrix is applied to
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/Stochastic.lean]: `pdist` is impenetrable. I had absolutely no idea what it meant until I read both the lemma *and* its docstring.
```suggestion
* `pdist_vecMul_of_mem_rowStochastic` if a row stochastic matrix is applied to
```

File: Mathlib/Data/Matrix/Stochastic.lean [hunk 3]
```diff
@@ -0,0 +1,250 @@
...
+  a positive vector with unit `ℓ₁`-norm (informally, a probility distributio)
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/Stochastic.lean]:
```suggestion
  a positive vector with unit `ℓ₁`-norm (informally, a probility distribution)
```

File: Mathlib/Data/Matrix/Stochastic.lean [hunk 4]
```diff
@@ -0,0 +1,250 @@
...
+  then the result is also a positive vector with unit `ℓ₁`-norm
+
+* `doublyStochastic_iff_rowStochastic_and_colStochastic` A matrix is doubly stochastic
+  if and only if it is both row and column stochastic
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/Stochastic.lean]: That's not in this file, so it doesn't belong in the module documentation here.

File: Mathlib/Data/Matrix/Stochastic.lean [hunk 5]
```diff
@@ -0,0 +1,250 @@
...
+    simp [zero_le_one_elem]
+
+lemma mem_rowStochastic :
+    M ∈ rowStochastic R n ↔ (∀ i j, 0 ≤ M i j) ∧  M *ᵥ 1 = 1 :=
+  Iff.rfl
+
+/-- A square matrix is row stochastic if each element is non-negative and row sums to one. -/
+lemma mem_rowStochastic_iff_sum :
+    M ∈ rowStochastic R n ↔
+      (∀ i j, 0 ≤ M i j) ∧ (∀ i, ∑ j, M i j = 1) := by
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/Stochastic.lean]:
```suggestion
    M ∈ rowStochastic R n ↔ (∀ i j, 0 ≤ M i j) ∧ (∀ i, ∑ j, M i j = 1) := by
```

File: Mathlib/Data/Matrix/Stochastic.lean [hunk 6]
```diff
@@ -0,0 +1,250 @@
...
+open Matrix
+
+
+namespace Stochastic
+
+variable {R n : Type*} [Fintype n] [DecidableEq n]
+variable [Semiring R] [PartialOrder R] [IsOrderedRing R] {M : Matrix n n R}
+variable {x : n → R}
+
+-- # rowStochastic
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/Stochastic.lean]: This should either be `/-! ## Row stochastic matrices -/` or else `section rowStochastic`, but we don't put comments like this (i.e., section divisions) in the source.

File: Mathlib/LinearAlgebra/Matrix/Stochastic.lean [hunk 7]
```diff
@@ -0,0 +1,250 @@
...
+    have h₂ : 1 ⬝ᵥ M *ᵥ x = (1 ᵥ* M) ⬝ᵥ x := dotProduct_mulVec 1 M x
+    rw [h₂]
+    have h₃ : 1 ᵥ* M = 1 := one_vecMul_of_mem_colStochastic hM
+    rw [h₃]
+    exact hx.2
+
+
+/-- A matrix is column stochastic if and only if its transpose is row stochastic. -/
+lemma colStochastic_iff_transpose_rowStochastic :
+    M ∈ colStochastic R n ↔ Mᵀ ∈ rowStochastic R n := by
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Matrix/Stochastic.lean]: I think we should have a version of this which upgrades it to `Submonoid.map ((Matrix.transposeRingEquiv n R).trans RingEquiv.mopMatrix.symm) (rowStochastic R n) = colStochastic Rᵐᵒᵖ n` where the left-hand side is in `Matrix n n R` and the right-hand side is in Matrix n n . Then, using [MulEquiv.submonoidMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Submonoid/Operations.html#MulEquiv.submonoidMap) and [MulEquiv.submonoidCongr](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Submonoid/Operations.html#MulEquiv.submonoidCongr), you can turn this into a `MulEquiv` between `rowStochastic R n` and `colStochastic Rᵐᵒᵖ n`.

File: Mathlib/Data/Matrix/Stochastic.lean [hunk 8]
```diff
@@ -0,0 +1,250 @@
+/-
+Copyright (c) 2025 Steven Herbert. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Steven Herbert
+-/
+
+import Mathlib.Data.Matrix.Basic
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/Stochastic.lean]:
```suggestion
import Mathlib.Data.Matrix.Basic
import Mathlib.Data.Matrix.Mul
```

File: Mathlib/Data/Matrix/Stochastic.lean [hunk 9]
```diff
@@ -0,0 +1,250 @@
...
+  carrier := {M | (∀ i j, 0 ≤ M i j) ∧ M *ᵥ 1 = 1  }
+  mul_mem' {M N} hM hN := by
+    refine Set.mem_sep ?_ ?_
+    · intro i j
+      apply Finset.sum_nonneg
+      intro k _
+      apply mul_nonneg
+      · exact hM.1 i k
+      · exact hN.1 k j
+    · rw [← mulVec_mulVec, hN.2, hM.2]
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/Stochastic.lean]: You can look in the `DoublyStochastic` file to see how this is proved:
```suggestion
    refine ⟨fun i j => sum_nonneg fun i _ => mul_nonneg (hM.1 _ _) (hN.1 _ _), ?_⟩
    next => rw [← mulVec_mulVec, hN.2, hM.2]
```

File: Mathlib/Data/Matrix/Stochastic.lean [hunk 10]
```diff
@@ -0,0 +1,250 @@
...
+/-- Right multiplication of a row stochastic matrix by a non-negative vector
+gives a non-negative vector. -/
+lemma nonneg_mulVec_of_mem_rowStochastic (hM : M ∈ rowStochastic R n)
+    (hx : ∀ i : n, 0 ≤ x i) : ∀ j : n, 0 ≤ (M *ᵥ x) j := by
+  intro j
+  simp only [Matrix.mulVec, dotProduct]
+  apply Finset.sum_nonneg
+  intro k _
+  refine Left.mul_nonneg ?_ (hx k)
+  exact nonneg_of_mem_rowStochastic hM
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/Stochastic.lean:103]: Here are much easier proofs, but note: these lemmas are much more general (i.e., they only need the matrix to have nonnegative entries), so they should be proved in that greater generality in another file. Moreover, you can state them without the `∀ j`.
```suggestion
lemma vecMul_nonneg (hM : ∀ i j, 0 ≤ M i j) (hx : 0 ≤ x) : 0 ≤ x ᵥ* M :=
  fun j ↦ Finset.sum_nonneg fun i _ ↦ mul_nonneg (hx i) (hM i j)

lemma mulVec_nonneg (hM : ∀ i j, 0 ≤ M i j) (hx : 0 ≤ x) : 0 ≤ M *ᵥ x :=
  fun i ↦ Finset.sum_nonneg fun j _ ↦ mul_nonneg (hM i j) (hx j) 
```

File: Mathlib/Data/Matrix/Stochastic.lean [hunk 11]
```diff
@@ -0,0 +1,250 @@
...
+    rw [h₀] at hx
+    have h₁ : ∑ j : n, (x ᵥ* M) j = (x ᵥ* M) ⬝ᵥ 1 := by
+      exact Eq.symm (dotProduct_one (x ᵥ* M))
+    rw [h₁]
+    have h₂ : x ᵥ* M ⬝ᵥ 1 = x ⬝ᵥ (M *ᵥ 1) := by
+      rw [@dotProduct_mulVec]
+    rw [h₂]
+    have h₃ : M *ᵥ 1 = 1 := hM.2
+    rw [h₃]
+    exact hx.2
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/Stochastic.lean]: Here's a much simpler proof
```suggestion
lemma pdist_vecMul_of_mem_rowStochastic (hM : M ∈ rowStochastic R n)
    (hx : (∀ i : n, 0 ≤ x i) ∧ ∑ i : n, x i = 1) :
    (∀ j : n, 0 ≤ (x ᵥ* M) j) ∧ ∑ j : n, (x ᵥ* M) j = 1 := by
  refine ⟨vecMul_nonneg hM.1 hx.1, ?_⟩
  rw [← dotProduct_one, ← dotProduct_mulVec, (mem_rowStochastic.mp hM).2, dotProduct_one, hx.2]
```
BUT...

1. This lemma has a bad name. I don't think we use the phrase `pdist` anywhere in Mathlib. Indeed [loogle agrees](https://loogle.lean-lang.org/?q="pdist").
2. This is really two separate lemmas, and you should keep them separate. In fact, you already established the nonnegativity above.

Here's a version of the second half of the lemma.
```lean
lemma sum_mulVec_apply_eq_one_of_mem_rowStochastic (hM : M ∈ rowStochastic R n)
    (hx : ∑ i : n, x i = 1) :
    ∑ j : n, (x ᵥ* M) j = 1 := by
  rw [← dotProduct_one, ← dotProduct_mulVec, hM.2, dotProduct_one, hx]
```
But really, you could phrase this as:
```lean
lemma mulVec_dotProduct_one_eq_one (hM : M ∈ rowStochastic R n)
    (hx : x ⬝ᵥ 1 = 1) : (x ᵥ* M) ⬝ᵥ 1 = 1 := by
  rw [← dotProduct_mulVec, hM.2, hx]
```
which is much cleaner.

File: Mathlib/Data/Matrix/Stochastic.lean [hunk 12]
```diff
@@ -0,0 +1,250 @@
...
+
+
+-- # colStochastic
+
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/Stochastic.lean]: All my comments about `rowStochastic` also apply to `colStochastic`

File: Mathlib/Data/Matrix/Stochastic.lean [hunk 13]
```diff
@@ -0,0 +1,250 @@
...
+    exact ⟨hM₃, hM₂⟩
+  · intro hM
+    have hM₁ : (∀ i j, 0 ≤ Mᵀ i j) ∧ (∀ i, ∑ j, Mᵀ i j = 1) := mem_rowStochastic_iff_sum.mp hM
+    have hM₂ : (∀ i, ∑ j, Mᵀ i j = 1) := by aesop
+    have hM₃ : ∀ i j, 0 ≤ M i j := by
+      refine fun i j ↦ ?_
+      have : ∀ i j, 0 ≤ Mᵀ i j := hM.1
+      aesop
+    rw [mem_colStochastic_iff_sum]
+    exact ⟨hM₃, hM₂⟩
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/Stochastic.lean]:
```suggestion
  simp only [mem_colStochastic_iff_sum, mem_rowStochastic_iff_sum, transpose_apply,
    and_congr_left_iff]
  exact fun _ ↦ forall_swap
```

File: Mathlib/LinearAlgebra/Matrix/Stochastic.lean
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Matrix/Stochastic.lean:1]: In this file you're missing the analogues of `convex_doublyStochastic` and `permMatrix_mem_doublyStochastic` for row and column stochastic matrices. Can you please add those?

File: Mathlib/Data/Matrix/DoublyStochastic.lean [hunk 14]
```diff
@@ -102,6 +103,28 @@ lemma permMatrix_mem_doublyStochastic {σ : Equiv.Perm n} :
...
+      · exact mulVec_one_of_mem_doublyStochastic hM
+    · constructor
+      · exact fun i j ↦ nonneg_of_mem_doublyStochastic hM
+      · exact one_vecMul_of_mem_doublyStochastic hM
+  · intro hM
+    constructor
+    · exact (hM.1).1
+    · constructor
+      · exact (hM.1).2
+      · exact (hM.2).2
```
Comment (j-loreaux) [inline Mathlib/Data/Matrix/DoublyStochastic.lean]: I would phrase this as an equality of submonoids. Also, `grind` is a pretty nice tactic. I suggest that you try to play around with it and read about it to learn its power.

Can you also move this much closer to the top of the file and use it to golf some of the other results in this file? (e.g., `convex_doublyStochastic` and `permMatrix_mem_doublyStochastic`)
```suggestion
lemma rowStochastic_inf_colStochastic :
    rowStochastic R n ⊓ colStochastic R n = doublyStochastic R n := by
  ext M
  simp only [rowStochastic, colStochastic, Submonoid.mem_inf, Submonoid.mem_mk, Subsemigroup.mem_mk,
    Set.mem_setOf_eq, doublyStochastic]
  grind
```

**Review by j-loreaux — COMMENTED** [review]
Welcome to Mathlib! Let me know if any of the comments are hard to follow.

**Comment by j-loreaux** [comment]
Please remove the "awaiting author" tag when you're finished making changes and the PR is again ready for review. If you don't have permission to do so, you can comment `-awaiting-author` and a bot will remove it for you.

File: Mathlib/Data/Matrix/DoublyStochastic.lean (hunk 14 above)
Comment (sjh227) [reply Mathlib/Data/Matrix/DoublyStochastic.lean]: Thanks for all of these. They look reasonable and I've already accepted a couple of easy ones, and I'll get to the others as I can.

File: Mathlib/LinearAlgebra/Matrix/Stochastic.lean
Comment (sjh227) [reply Mathlib/LinearAlgebra/Matrix/Stochastic.lean:1]: done

Comment (sjh227) [reply Mathlib/LinearAlgebra/Matrix/Stochastic.lean:1]: done

File: Mathlib/Data/Matrix/DoublyStochastic.lean (hunk 14 above)
Comment (sjh227) [reply Mathlib/Data/Matrix/DoublyStochastic.lean]: I've moved it up, I couldn't find shorter proofs, but its in the right place now if future edits do find them

File: Mathlib/LinearAlgebra/Matrix/Stochastic.lean (hunk 7 above)
Comment (sjh227) [reply Mathlib/LinearAlgebra/Matrix/Stochastic.lean]: I am not really sure how to do this; please could you add the details. However, if your comment was more along the lines that it would be nice to have this at some point, then I'd prefer to leave for now, and let others add in future if actually needed.

File: Mathlib/Data/Matrix/Stochastic.lean (hunk 10 above)
Comment (sjh227) [reply Mathlib/Data/Matrix/Stochastic.lean:103]: Hi these edits are simpler, but do not prove precisely what we need (as you note). My intention was to mirror what is already in doublyStochastic, and as such I'm happy to leave as is.

**Comment by sjh227** [comment]
-awaiting-author

**Comment by dupuisf** [comment]
@sjh227 I am planning to add material on doubly stochastic matrices, including some which overlaps this PR (see #33394). Would it be OK with you if I take over this PR and get it merged? You would of course retain credit for your code.
